US06939928B1
(1) Synthesis of 1-(cyclopentadienyl)-1-(3,6-di-tert-butylfluorenyl)diphenylmethane
To a solution of 2.5 g (9.0 mmol) of 3,6-di-tert-butylfluorene in 40 ml of THF, 6.1 ml (9.8 mmol) of a hexane solution of n-butyllithium was dropwise added in a nitrogen atmosphere with ice cooling, followed by stirring at room temperature for 4 hours. The resulting solution was ice cooled again, and thereto was dropwise added a solution of 2.5 g (10.8 mmol) of 6,6-diphenylfulvene in 30 ml of THF in a nitrogen atmosphere, followed by stirring at room temperature for 5 hours. Then, 50 ml of water was added. The organic phase extracted with diethyl ether and separated was dried over magnesium sulfate and then filtered. From the filtrate, the solvent was removed under reduced pressure to obtain a solid. The solid was recrystallized from methanol to obtain 3.4 g of a slightly yellow solid. The analyzed values are given below. 1H-NMR (270 MHz, in CDCl3, Based on TMS): δ7.47 (s, 2H), 7.28 (br, 4H), 7.07−7.01 (br, 10H), 6.51−6.18 (m, 3H), 5.46+5.41 (s+s, 1H), 2.94+2.86 (s+s, 2H), 1.30 (s, 18H)

reactant | 3,6-di-tert-butylfluorene | 9.0 mmol, 2.5 g | C(C)(C)(C)C=1C=CC=2CC3=CC=C(C=C3C2C1)C(C)(C)C | C21H26
reactant | hexane | 9.8 mmol, 6.1 ml | CCCCCC | C6H14
reactant | n-butyllithium | C(CCC)[Li]
reactant | 6,6-diphenylfulvene | 10.8 mmol, 2.5 g | C1(=CC=CC=C1)C(=C1C=CC=C1)C1=CC=CC=C1 | C18H14
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | water | 50 ml | O | H2O
product | 1-(cyclopentadienyl)-1-(3,6-di-tert-butylfluorenyl)diphenylmethane | C1(C=CC=C1)C(C1=CC(=CC=2C3=CC(=CC=C3CC12)C(C)(C)C)C(C)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C39H40
